US05817689
6-Hydroxyindole (2.9 g), methyl chloroacetate (2.7 g), potassium carbonate (5.5 g) and potassium iodide (0.2 g) are added to acetone (100 ml), and the mixture is refluxed for 8 hours. The reaction mixture is cooled to room temperature, and the insoluble materials are removed by filtration. The filtrate is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform) to give 6-methoxycarbonylmethoxyindole (2.83 g).

reactant | 6-Hydroxyindole | 2.9 g | OC1=CC=C2C=CNC2=C1 | C8H7NO
reactant | methyl chloroacetate | 2.7 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.2 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-methoxycarbonylmethoxyindole | 2.83 g | COC(=O)COC1=CC=C2C=CNC2=C1 | C11H11NO3
